US07473786B1
2-phenyl-1H-indole (entry 1, Table 1):
The general procedure was used to convert phenylacetylene and 2-iodoaniline to the title product. Purification by flash chromatography gave the analytically pure product as a white solid (92% yield). 1H NMR (300 MHz, DMSO) δ 11.54 (s, 1H), 7.86-7.84 (d, J=7.15, 2H), 7.53-7.50 (d, J=7.72, 1H), 7.45-7.40 (t, J=7.72, 3H), 7.30-7.25 (t, J=7.34, 1H), 7.01-6.96 (t, J=6.97, 1H), 6.87 (s, 1H). 13C NMR (75 MHz, DMSO) δ 138.48, 138.01, 133.09, 132.43, 132.30, 129.76, 129.25, 128.24, 125.84, 122.44, 120.93, 120.24, 112.18, 99.55. Anal. Calcd. for C14H11N: C, 87.01; H, 5.74; N, 7.25. Found C, 86.87; H, 5.72; N, 6.99. m.p.: 183-184° C.

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 2-iodoaniline | IC1=C(N)C=CC=C1 | C6H6IN
product | 2-phenyl-1H-indole | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
